US09302991B2
<Step-2>: 2-acetamido-N-(3-(trifluoromethoxy)benzyl)pyrimidine-4-carboxamide (Example-277)
The title compound is prepared from 2-amino-N-(3-(trifluoromethoxy)benzyl)pyrimidine-4-carboxamide (15 mg, 0.05 mmol, Step-1) and acetyl chloride (11 mg, 0.14 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-(3-(trifluoromethoxy)benzyl)pyrimidine-4-carboxamide | 0.05 mmol, 15 mg | NC1=NC=CC(=N1)C(=O)NCC1=CC(=CC=C1)OC(F)(F)F | C13H11F3N4O2
reactant | acetyl chloride | 0.14 mmol, 11 mg | C(C)(=O)Cl | C2H3ClO
product | 2-acetamido-N-(3-(trifluoromethoxy)benzyl)pyrimidine-4-carboxamide | C(C)(=O)NC1=NC=CC(=N1)C(=O)NCC1=CC(=CC=C1)OC(F)(F)F | C15H13F3N4O3
